US05523400
(6R,7R)-7-[(Z)-2-(Amino-thiazol-4-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(Z)-2-oxo-1-phenyl-azetidin-3-ylidenemethyl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
384 mg (0.5 mmol) (6R,7R)-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-trityloxyimino-acetylamino]-8-oxo-3-[(Z)-2-oxo-1-phenyl-azetidin-3-ylidenemethyl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid were stirred for 75 min in 4 ml of 90% formic acid. The suspension is concentrated in vacuo and the residue triturated with 50 ml of ethyl acetate. The solid was filtered off, dried and stirred for 1 hour with 20 ml of 90% ethanol. The product was isolated by filtration, washed with n-hexane and dried.

reactant | (6R,7R)-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-trityloxyimino-acetylamino]-8-oxo-3-[(Z)-2-oxo-1-phenyl-azetidin-3-ylidenemethyl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.5 mmol, 384 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)\C=C\1/C(N(C1)C1=CC=CC=C1)=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H32N6O6S2
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | (6R,7R)-7-[(Z)-2-(Amino-thiazol-4-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(Z)-2-oxo-1-phenyl-azetidin-3-ylidenemethyl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)\C=C\1/C(N(C1)C1=CC=CC=C1)=O)=N/O | C22H18N6O6S2
